US07569536B2
Piperidine (338 μl, 3.41 mmol, commercially available product) was added at room temperature to an N,N-dimethylformamide (DMF; 0.5 ml) solution of 2-fluoro-1-nitrobenzene (219 mg, 1.55 mmol, commercially available product). The resulting mixture was stirred for two hours. Water was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20 g, hexane/ethyl acetate=20/1). Thus, 1-(2-nitrophenyl)piperidine (315 mg, 98.8%) was yielded as a colorless oily material.

reactant | Piperidine | N1CCCCC1 | C5H11N
reactant | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | 2-fluoro-1-nitrobenzene | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | Water | O | H2O
product | 1-(2-nitrophenyl)piperidine | 315 mg, 98.8% | [N+](=O)([O-])C1=C(C=CC=C1)N1CCCCC1 | C11H14N2O2
